US09278950B2
Step 3. 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-(cyanomethyl)quinoline-2-carboxamide
To a solution of benzyl {(3S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]piperidin-3-yl}carbamate (65.8 mg, 0.0982 mmol) in MeOH (2.0 mL), 10 wt % Pd on carbon (15.4 mg, 0.0145 mmol) was added. The mixture was stirred at room temperature under hydrogen (1 atm.) for 15 h. The reaction mixture was filtered through a pad of diatomaceous earth (eluted with MeOH), and then concentrated under reduced pressure. The resulting residue was purified using RP-HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to give the title compound as a yellow solid (3.4 mg, 9%). LCMS calc. for C22H24N7O (M+H)+: m/z=402.2. found 402.2. 1H NMR (400 MHz, DMSO-d6) δ 9.41 (s, 1H), 8.27 (d, J=5.3 Hz, 1H), 7.85 (s, 1H), 7.75 (d, J=8.7 Hz, 1H), 7.57 (s, 1H), 7.41 (d, J=8.5 Hz, 1H), 7.17 (d, J=5.3 Hz, 1H), 6.98 (s, 2H), 4.23 (s, 2H), 3.25-3.18 (m, 1H), 3.18-3.03 (m, 2H), 2.78-2.58 (m, 1H), 2.47-2.41 (m, 1H), 2.08-1.95 (m, 1H), 1.95-1.76 (m, 2H), 1.22 (s, 1H) ppm.

reactant | benzyl {(3S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]piperidin-3-yl}carbamate | 0.0982 mmol, 65.8 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)CC#N)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C38H35N7O5
solvent | MeOH | 2.0 mL | CO | CH4O
catalyst | Pd on carbon | 0.0145 mmol, 15.4 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-(cyanomethyl)quinoline-2-carboxamide | 3.4 mg, 9% | NC=1C(=NC2=CC(=CC=C2C1)CC#N)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)N | C22H23N7O
